US04898871
3-Dimethylaminopropylamine (4.1 g) is added at a temperature in the region of 20° C. to a suspension of 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (6.6 g) in anhydrous tetrahydrofuran (100 cc), and the reaction mixture is heated to reflux for 6 hours. After the reaction mixture has been stirred for a further 20 hours at a temperature in the region of 20° C., it is filtered. The isolated solid is washed with ethyl acetate (3×25 cc). The filtrate is washed with distilled water (3×25 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. 1N aqueous hydrochloric acid solution (20 cc) is added to the residue obtained. An insoluble product is separated by filtration, washed with 1N aqueous hydrochloric acid solution (2×5 cc) and then discarded. The aqueous filtrates are combined and alkalinized with a saturated aqueous potassium bicarbonate solution to a pH in the region of 8, and then extracted with ethyl acetate (3×40 cc). The organic phases are combined, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. After recrystallization in ethyl acetate, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(3-dimethylaminopropylamino)-1-isoindolinone (3 g), m.p. 143° C., is obtained.

reactant | 3-Dimethylaminopropylamine | 4.1 g | CN(CCCN)C | C5H14N2
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 6.6 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(3-dimethylaminopropylamino)-1-isoindolinone | 3 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1NCCCN(C)C)=O | C21H22ClN5O
